US05968967
b) 1-(4-Cyanophenyl)-2-methyl-hydrazine
To a mixture of 260 g of (1-(4-cyanophenyl)-2-methylhydrazino)triphenylphosphonium bromide and 2,000 ml of tetrahydrofuran, 347 ml of n-butyllithium (1.66 M, hexane solution) was added at 0° C., and the resulting mixture was stirred at room temperature for 1 hour. 85.6 g of methyl iodide was added thereto, and the resulting mixture was stirred for 20 hours. Then, 1,400 ml of 2N aqueous sodium hydroxide was added. The mixture was stirred at 50° C. for another 1 hour. After the mixture was allowed to separate, the aqueous layer was extracted with benzene. The organic layers were combined and extracted with 1N hydrochloric acid, and the extract was washed with chloroform. The resulting acidic aqueous solution was adjusted to pH 10-12 with 2N aqueous sodium hydroxide and then extracted with benzene. The extract was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. After the insolubles were filtered off, the solvent was removed by evaporation under reduced pressure to leave 60.8 g of the title compound as a pale yellow liquid.

reactant | (1-(4-cyanophenyl)-2-methylhydrazino)triphenylphosphonium bromide | 260 g | [Br-].C(#N)C1=CC=C(C=C1)N(NC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 1.66 M, 347 ml | C(CCC)[Li]
reactant | methyl iodide | 85.6 g | CI | CH3I
reactant | sodium hydroxide | 2N, 1,400 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 2,000 ml | O1CCCC1 | C4H8O
product | 1-(4-Cyanophenyl)-2-methyl-hydrazine | 60.8 g | C(#N)C1=CC=C(C=C1)NNC | C8H9N3
